US08372842B2
NaH (0.188 g, 4.70 mmol) in DMF (5 mL) was added dropwise to 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (1.00 g, 3.92 mmol, prepared as described in WO 2007/103308) in DMF (10 mL). The reaction mixture was then warmed to 40° C. and stirred for 30 minutes. After cooling to room temperature, 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.68 g, 4.70 mmol) was added and stirred at room temperature for 1 hour. Then tert-butyl piperazine-1-carboxylate (1.61 g, 8.62 mmol) was added. The mixture was warmed to 80° C. and stirred for 3 hours. The reaction was then cooled to room temperature, and a saturated solution of NH4Cl (30 mL) was added. The mixture was extracted with ethyl acetate (2×30 mL) and dried over sodium sulfate. After removal of solvent, the resulting residue was purified by column chromatography (hexane:ethyl acetate, 5:1) to give tert-butyl 4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (1.64 g, 99% yield) as a solid. MS APCI (+) m/z 424.1 detected. 1H NMR (400 Hz, DMSO-d6) δ 8.24 (s, 1H), 8.13 (d, J=5.2 Hz, 1H), 7.18 (d, J=8.4 Hz, 2H), 6.84 (d, J=8.4 Hz, 2H), 6.42 (d, J=5.2 Hz, 1H), 5.49 (s, 2H), 3.69 (s, 3H), 3.64 (m, 4H), 3.53 (m, 4H).

reactant | NaH | 4.70 mmol, 0.188 g | [H-].[Na+]
reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 3.92 mmol, 1.00 g | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 4.70 mmol, 1.68 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | tert-butyl piperazine-1-carboxylate | 8.62 mmol, 1.61 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 1.64 g, 99% yield | COC1=CC=C(CN2N=CC=3C2=NC=CC3N3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C23H29N5O3
